US06803476B2
180.93 g (0.400 mol) di(pentafluorophenyl)diethoxysilane, 29 mL (0.400 mol, 47.6 g) thionylchloride and 4.92 g (0.0426 mol) pyridinium hydrochloride are refluxed and stirred for 16 h. Unreacted SOCl2 is evaporated and di(pentafluorophenyl)chloroethoxysilane isolated by vacuum distillation.

reactant | di(pentafluorophenyl)diethoxysilane | 0.400 mol, 180.93 g | FC1=C(C(=C(C(=C1[Si](OCC)(OCC)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C16H10F10O2Si
reactant | thionylchloride | 0.400 mol, 29 mL, 47.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridinium hydrochloride | 0.0426 mol, 4.92 g | Cl.[NH+]1=CC=CC=C1
product | di(pentafluorophenyl)chloroethoxysilane | FC1=C(C(=C(C(=C1[SiH](OCCCl)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C14H5ClF10OSi
